US04994479
In 200 ml of acetone was dissolved 8.69 g of ethyl 4-(1,3-dioxan-2-yl)-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate obtained in Reference Example 41. To the solution was added 6 ml of 6% hydrochloric acid. The mixture was stirred at room temperature for 2 hours. After adding 30 ml of water thereto, the mixture was cooled and the precipitated crystals were taken by filtration, washed with 50% acetone to obtain 6.0 g of ethyl 4-formyl-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate.

reactant | ethyl 4-(1,3-dioxan-2-yl)-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate | 8.69 g | O1C(OCCC1)C1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C31H35NO7
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | ethyl 4-formyl-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate | 6.0 g | C(=O)C1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C28H29NO6
